US04556654
2-(2-Aminoethyl)-7,10-dihydroxy-5-[[2-(methylamino)ethyl]amino]anthra[1,9-cd]pyrazol-6(2H)-one
Reaction of 2-(2-aminoethyl)-5-chloro-7,10-bis-(phenylmethoxy)anthra[1,9-cd]pyrazol-6(2H)-one with N-methyl-N-(phenylmethyl)-1,2-ethanediamine as described in Example 78 gives the product; mp 169°-172° C.

reactant | 2-(2-aminoethyl)-5-chloro-7,10-bis-(phenylmethoxy)anthra[1,9-cd]pyrazol-6(2H)-one | NCCN1N=C2C3=C1C=CC(=C3C(C3=C(C=CC(=C32)OCC3=CC=CC=C3)OCC3=CC=CC=C3)=O)Cl | C30H24ClN3O3
reactant | N-methyl-N-(phenylmethyl)-1,2-ethanediamine | CN(CCN)CC1=CC=CC=C1 | C10H16N2
product | 2-(2-Aminoethyl)-7,10-dihydroxy-5-[[2-(methylamino)ethyl]amino]anthra[1,9-cd]pyrazol-6(2H)-one | NCCN1N=C2C3=C1C=CC(=C3C(C3=C(C=CC(=C32)O)O)=O)NCCNC | C19H21N5O3
